US04659824
1. N,N'-diglycidyl-N"-(3-chloro-2-hydroxypropyl)-urazole
A total of 36.5 g of 10% hydrochloric acid was added dropwise at 40° C. to a solution of 26.9 g (0.1 mole) of 1,2,4-triglycidyl urazole (TGU) in 700 ml of 10% aqueous sodium chloride solution so slowly that the pH-value could be kept constant at pH 5. The addition was over after about 70 minutes. Thereafter the reaction mixture was extracted 4 times with 250 ml of methylene chloride and the methylene chloride distilled off.

reactant | hydrochloric acid | 36.5 g | Cl | ClH
reactant | 1,2,4-triglycidyl urazole | 0.1 mole, 26.9 g | C(C1CO1)N1N(C(=O)N(C1=O)CC1CO1)CC1CO1 | C11H15N3O5
solvent | sodium chloride | 700 ml | [Cl-].[Na+]
product | N,N'-diglycidyl-N"-(3-chloro-2-hydroxypropyl)-urazole | C(C1CO1)N1N(C(=O)N(C1=O)CC(CCl)O)CC1CO1 | C11H16ClN3O5
